US07105682B2
Step B: Preparation of 2-fluoropyridine-3-carbonyl chloride
To a solution of 2-fluoropyridine (10 g, 100 mmol) in THF (150 mL) under −78° C. was added an LDA solution (2M in heptane/THF/ethylbenzene, 60 mL) dropwise. The mixture was stirred at −78° C. for 3 h, then was quenched with a stream of dry CO2. After warming to RT, the mixture was partitioned between EtOAc (100 mL) and H2O (200 mL). The aqueous layer was acidified to pH between 3–4, and extracted with EtOAc. The organic solution was collected and washed with brine and dried over Na2SO4. After removing the solvent in vacuum, 2-fluoropyridine-3-carboxylic acid was obtained as a brown oil. MS: 140 (M−H). Calc'd. for C6H4FNO2—141.10. 2-Fluoropyridine-3-carboxylic acid (7 g) was suspended in SOCl2 (100 mL). After heating under reflux for 2 h, the mixture became homogeneous. Access SOCl2 was removed in vacuo to afford a brown solid as desired compound.

reactant | 2-Fluoropyridine-3-carboxylic acid | 7 g | FC1=NC=CC=C1C(=O)O | C6H4FNO2
reactant | SOCl2 | 100 mL | O=S(Cl)Cl | Cl2OS
product | 2-fluoropyridine-3-carbonyl chloride | FC1=NC=CC=C1C(=O)Cl | C6H3ClFNO
